US06642251B1
A mixture of 0.5 g 5-methoxy-1-indanone, 1.23 g oxindole and 2.7 ml piperidine in 4 ml dimethylforamide was heated in a sealed tube at 130° C. for 3 days to yield a greenish-black suspension. The mixture was added to 1N hydrochloric acid solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated. Chromatography afforded 20 mg of 3-(5-methoxyindan-1-ylidene)-1,3-dihydroindol-2-one as a brown solid.

reactant | 5-methoxy-1-indanone | 0.5 g | COC=1C=C2CCC(C2=CC1)=O | C10H10O2
reactant | oxindole | 1.23 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | piperidine | 2.7 ml | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dimethylforamide | 4 ml | CN(C=O)C | C3H7NO
product | 3-(5-methoxyindan-1-ylidene)-1,3-dihydroindol-2-one | 20 mg | COC=1C=C2CCC(C2=CC1)=C1C(NC2=CC=CC=C12)=O | C18H15NO2
